US05179211
Phenylhydrazine was reacted with heptan-2-one in the same way as in Example 2. 2-Methyl-3-butylindole was formed in a yield of 38%.

reactant | Phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | heptan-2-one | CC(CCCCC)=O | C7H14O
product | 2-Methyl-3-butylindole | yield of 38% | CC=1NC2=CC=CC=C2C1CCCC | C13H17N
